US08222263B2
To a round bottomed flask containing 7-benzyl-2-chloro-4-phenyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (73 mg, 0.22 mmol) was added commercially available 4-amino-N-(2,6-dimethylphenyl)benzamide (56 mg, 0.23 mmol), diacetoxypalladium (II), (12 mg, 0.05 mmol) di-tert-butyl(phenyl)phosphine (39 mg, 0.13 mmol), cesium carbonate (125 mg, 0.38 mmol), and toluene (5 mL). The reaction mixture was heated to 100° C. for 14 h, then cooled to rt and diluted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The material was purified by flash column chromatography to afford N-(2,6-dimethylphenyl)-4-{[4-phenyl-7-(phenylmethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yl]amino}benzamide (60 mg, 50%) as an off white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.95 (s, 1H), 9.53 (s, 1H), 7.93 (m, 4H), 7.61 (m, 2H), 7.50 (m, 3H), 7.29 (m, 5H), 7.11 (m, 3H), 3.64 (m, 2H), 3.56 (m, 2H), 2.90 (m, 2H), 2.81 (m, 2H), 2.17 (s, 6H). MS (EI) for C35H33N5O: 540.3 (MH+).

reactant | 7-benzyl-2-chloro-4-phenyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.22 mmol, 73 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)C1=CC=CC=C1)Cl | C20H18ClN3
reactant | 4-amino-N-(2,6-dimethylphenyl)benzamide | 0.23 mmol, 56 mg | NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C15H16N2O
reactant | di-tert-butyl(phenyl)phosphine | 0.13 mmol, 39 mg | C(C)(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
reactant | cesium carbonate | 0.38 mmol, 125 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | diacetoxypalladium (II) | 0.05 mmol, 12 mg | C(C)(=O)O[Pd]OC(C)=O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-dimethylphenyl)-4-{[4-phenyl-7-(phenylmethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yl]amino}benzamide | 60 mg, 50% | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)NC=1N=C(C2=C(N1)CN(CC2)CC2=CC=CC=C2)C2=CC=CC=C2)=O | C35H33N5O
